US03953500
To 200 ml. of ethyl ether is added 15 g. of 5-(p-chlorobenzyl)-1,2,3,4-tetrahydro-1-naphthoic acid, and a solution of 5 g. of sodium dichromate in 24 ml. of 6N sulfuric acid is added dropwise. After stirring overnight, 100 ml. of water is added and the ethereal layer is further washed with water and dried over anhydrous magnesium sulfate. The solvent is distilled off under reduced pressure and the oily residue is purified by column chromatography on silica gel equilibrated with oxalic acid with chloroform as the eluent and, then, recrystallized from benzene. The described procedure gives 5-(p-chlorobenzoyl)-1,2,3,4-tetrahydro-1-naphthoic acid, melting point: 152.5°-153.5°C.

reactant | ethyl ether | C(C)OCC | C4H10O
reactant | 5-(p-chlorobenzyl)-1,2,3,4-tetrahydro-1-naphthoic acid | ClC1=CC=C(CC2=C3CCCC(C3=CC=C2)C(=O)O)C=C1 | C18H17ClO2
reactant | sodium dichromate | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
reactant | sulfuric acid | 6N | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 5-(p-chlorobenzoyl)-1,2,3,4-tetrahydro-1-naphthoic acid | ClC1=CC=C(C(=O)C2=C3CCCC(C3=CC=C2)C(=O)O)C=C1 | C18H15ClO3
